US09238640B2
Preparation of 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-5,7-difluoroquinazolin-4(3H)-one
To a solution of 2-amino-4,6-difluoro-benzamide (0.80 g, 4.60 mmol) and 3,5-dimethyl-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde (1.14 g, 4.60 mmol) in N,N-dimethylacetamide (60 mL) were added sodium hydrogen sulfite (58.5 wt %, 1.25 g, 6.9 mmol) and p-toluenesulfonic acid monohydrate (3.50 g, 18.4 mmol). The reaction mixture was stirred at 145° C. for 16 hours under nitrogen atmosphere, then cooled to room temperature. Solvent was evaporated under reduced pressure. Water (50 mL) was added, followed by saturated aqueous sodium bicarbonate solution (15 mL). The mixture was extracted with CH2Cl2 (2×100 mL) and washed with water. The organic phase was evaporated and the residue was washed with hexane/ether (90:10, 100 mL). The solid was filtered and dried under vacuum to give the title compound as a brown solid. Yield: 1.48 g (80%). MP 234-235° C. 1H NMR (400 MHz, DMSO-d6): δ 12.36 (s, 1H), 7.90 (s, 1H), 7.32 (m, 2H), 3.91 (t, J=4 Hz, 2H), 2.83 (t, J=4 Hz, 2H), 2.55 (s, 4H), 2.31 (s, 6H), 1.70 (s, 4H).

reactant | 2-amino-4,6-difluoro-benzamide | 4.60 mmol, 0.80 g | NC1=C(C(=O)N)C(=CC(=C1)F)F | C7H6F2N2O
reactant | 3,5-dimethyl-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde | 4.60 mmol, 1.14 g | CC=1C=C(C=O)C=C(C1OCCN1CCCC1)C | C15H21NO2
reactant | sodium hydrogen sulfite | 6.9 mmol, 1.25 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 18.4 mmol, 3.50 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylacetamide | 60 mL | CN(C(C)=O)C | C4H9NO
product | 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-5,7-difluoroquinazolin-4(3H)-one | CC=1C=C(C=C(C1OCCN1CCCC1)C)C1=NC2=CC(=CC(=C2C(N1)=O)F)F | C22H23F2N3O2
